US06903126B2
6-[[2-Methoxy-1-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester
200 mg of 6-(3-phenylamino-4-aminophenyl)oxyhexanoic acid methyl ester was mixed with 0.12 ml of tetramethylorthocarbonate and 40 μl of acetic acid, and the mixture was heated for 4 hours to 80° C. After cooling, it was mixed with 1N sodium hydroxide solution, extracted three times with ethyl acetate, the combined organic phases were washed with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was purified by column chromatography on silica gel. 104 mg was obtained.

reactant | 6-(3-phenylamino-4-aminophenyl)oxyhexanoic acid methyl ester | 200 mg | COC(CCCCCOC1=CC(=C(C=C1)N)NC1=CC=CC=C1)=O | C19H24N2O3
reactant | tetramethylorthocarbonate | 0.12 ml | COC(OC)(OC)OC | C5H12O4
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | acetic acid | 40 μl | C(C)(=O)O | C2H4O2
product | 6-[[2-Methoxy-1-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C=CC2=C(N(C(=N2)OC)C2=CC=CC=C2)C1)=O | C21H24N2O4
